US05223498
A solution of 1-(2-morpholinophenyl)thiourea (7.2 g) in dry methanol (30 ml) was heated at reflux with methyliodide (4.2 g) for 2 hours. The solvent was removed under reduced pressure and dry ether (15 ml) was added and on scratching gave 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide (m.p. 151°-152° C.).

reactant | 1-(2-morpholinophenyl)thiourea | 7.2 g | O1CCN(CC1)C1=C(C=CC=C1)NC(=S)N | C11H15N3OS
reactant | methyliodide | 4.2 g | CI | CH3I
solvent | methanol | 30 ml | CO | CH4O
product | 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=N | InChI=1S/C12H17N3OS.HI/c1-17-12(13)14-10-4-2-3-5-11(10)15-6-8-16-9-7-15;/h2-5H,6-9H2,1H3,(H2,13,14);1H
